US03987160
A cold solution of benzenediazonium chloride [prepared, by the method well known in the art, from 13.3 g. aniline in a 1:1 v/v mixture of water and concentrated hydrochloric acid (120 ml)] was added dropwise with stirring to a solution of 4-amino-2-isopropylpyrimid-6-one (28 g.) and sodium hydroxide (14.8 g.) in water (450 ml.) at 5° C. After stirring for a further 1 hour, the mixture was filtered. The filtrate was adjusted to pH 6 by the addition of aqueous sodium hydroxide solution, and the resultant solid was isolated to give crude 4-amino-2-isopropyl-5-phenylazopyrimid-6-one (33.5 g.), m.p. 215°-219° C. Recrystallisation from ethanol gave pure 4-amino-2-isopropyl-5-phenylazopyrimid-6-one (8.3 g.), m.p. 235°-236° C. (with decomposition).

reactant | benzenediazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 120 ml | Cl | ClH
reactant | 4-amino-2-isopropylpyrimid-6-one | 28 g | NC=1N=C(NC(C1)=O)C(C)C | C7H11N3O
reactant | sodium hydroxide | 14.8 g | [OH-].[Na+]
solvent | water | 450 ml | O | H2O
product | 4-amino-2-isopropyl-5-phenylazopyrimid-6-one | 8.3 g | NC=1N=C(NC(C1N=NC1=CC=CC=C1)=O)C(C)C | C13H15N5O
